US05374643
C. 4-Azido-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran
A solution of 4-bromo-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran (6.73 g, 25.29 mmoles), title B compound, in dry N,N-dimethylformamide (100 mL) was treated with sodium azide (3.79 g, 50.57 mmoles) and stirred at room temperature under argon for four hours. The reaction mixture was partitioned between 100 mL ethyl acetate and 200 mL distilled water. The organic layer was separated and the aqueous layer was extracted with 100 mL of ethyl acetate. The combined organics were washed successively with distilled water, saturated sodium bicarbonate solution, brine and dried over magnesium sulfate. The solvent was evaporated under vacuum to obtain an orange gum (5.62 g) which was triturated with penme to provide the title compound (4.50 g, 78%) as an off-white solid, m.p. 63°-64° C.

reactant | 4-bromo-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran | 25.29 mmoles, 6.73 g | BrC1CC(OC2=C1C=C(C=C2)C#N)(C)C | C12H12BrNO
reactant | sodium azide | 50.57 mmoles, 3.79 g | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 4-Azido-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran | 5.62 g | N(=[N+]=[N-])C1CC(OC2=C1C=C(C=C2)C#N)(C)C | C12H12N4O
